* =====================================================================
*  igzo_2t0c_v0.lib
*  --------------------------------------------------------------------
*  Paper-anchored BEHAVIORAL SURROGATE model for the Zhu 2T0C OSFET
*  device.  NOT a re-implementation of Zhu's surface-potential compact
*  model.  See reference_notes.md and scripts/fit_device.py.
*
*  The model captures:
*    - sub-threshold leakage
*    - smooth triode-to-saturation transition
*    - on-current in the same order of magnitude as paper Fig 5
*
*  It does NOT capture:
*    - DIBL, channel-length modulation
*    - BTI, self-heating, gate leakage
*    - body effect
*    - separate mobility model; K is a lumped behavioral constant
*
*  Geometry (from Fig. 5 caption, paper):
*    L         = 55 nm
*    CD        = 50 nm
*    t_IGZO    = 3 nm
*    t_HfOx    = 8 nm
*    W_eff     = pi * CD  (used in the paper's compact model; not used
*                          in this surrogate; K absorbs geometry)
*
*  PAPER_ANCHORED_SURROGATE
*  NOT_ZHU_ORIGINAL_COMPACT_MODEL
* =====================================================================

.SUBCKT XOSFET_2T0C D G S B
*   D -- drain
*   G -- gate
*   S -- source
*   B -- body (tied to S internally; no separate body model in v0)

*  Surrogate parameters
.PARAM K_2T0C=2.280187e-06
.PARAM VTH_2T0C=-0.278078
.PARAM A_2T0C=3.500000
.PARAM ALPHA_VDSAT_2T0C=0.657662
.PARAM K_SMOOTH_2T0C=3.102452
.PARAM N_SUB_2T0C=3.000000

*  I_d(Vgs, Vds):
*    Vov    = V(G,S) - VTH_2T0C
*    Vov_p  = MAX(Vov, 0)
*    Vov_n  = MIN(Vov, 0)
*    Vdsat  = ALPHA_VDSAT_2T0C * Vov_p
*    Vds_eff= V(D,S) * Vdsat / (Vdsat^K_SMOOTH + |V(D,S)|^K_SMOOTH + 1e-30)^(1/K_SMOOTH)
*    I_on   = K_2T0C * (Vov_p + 1e-12)^A_2T0C * Vds_eff
*    I_sub  = K_2T0C * 1e-6 * exp(MIN(Vov_n, 0) / (N_SUB_2T0C * 0.02585))
*    I_d    = I_on + I_sub
*
*  Caveat: at Vov > 0 the sub-threshold term evaluates to a constant
*  K_2T0C * 1e-6 * exp(0) = K_2T0C * 1e-6 A (a small on-region floor,
*  used to keep ngspice numerical at Vgs = VWL_OFF).  At Vov < 0, the
*  exponential decays the sub-threshold current.

B_ID D S I=
+    (K_2T0C *
+     (MAX(V(G,S) - VTH_2T0C, 0) + 1e-12) ** A_2T0C *
+     SGN(V(D,S)) *
+     (0.5 * (ABS(V(D,S)) + ALPHA_VDSAT_2T0C*MAX(V(G,S) - VTH_2T0C, 0) -
+      SQRT((ABS(V(D,S)) - ALPHA_VDSAT_2T0C*MAX(V(G,S) - VTH_2T0C, 0))**2 + 1e-12)
+     ))
+    ) +
+    (K_2T0C * 1.0e-6 *
+     EXP(MIN(V(G,S) - VTH_2T0C, 0) / (N_SUB_2T0C * 0.02585))
+    )

*  No device-internal capacitance (lumped outside in the parasitic RC).
.ENDS XOSFET_2T0C


*  Convenience alias for DC Id-Vg / Id-Vd sweeps (B tied to S).
.SUBCKT XOSFET_DC D G S
X1 D G S S XOSFET_2T0C
.ENDS XOSFET_DC
